US04956375
Synthesis of 2,5-dimethyl-N-(1,1-dimethylindan-4-yl)-3-furan carboxamide
To 15 ml of an ether solution of 1.5 g (8.57 mmols) of 1,1-dimethylindane-4-amine,2 ml of N-methyl morpholine and 1.4 g (8.83 mmols) of 2,5-dimethyl-3-furan carboxylic acid chloride were added under cooling. The mixture was stirred at room temperature for 1 hour and then washed sequentially with water and brine. The solution was dried with magnesium sulfate. The resultant concentrate was purified with silica gel column chromatography (solvent for elution; ethyl acetate/ n-hexane =1/4), thereby obtaining 2.1 g of light yellow crystals (Compound No. 20 shown in Table 6). The yield was 85.8%.

reactant | 1,1-dimethylindane-4-amine | 8.57 mmols, 1.5 g | CC1(CCC=2C(=CC=CC12)N)C | C11H15N
reactant | N-methyl morpholine | 2 ml | CN1CCOCC1 | C5H11NO
reactant | 2,5-dimethyl-3-furan carboxylic acid chloride | 8.83 mmols, 1.4 g | CC=1OC(=CC1C(=O)Cl)C | C7H7ClO2
solvent | ether | 15 ml | CCOCC | C4H10O
product | 2,5-dimethyl-N-(1,1-dimethylindan-4-yl)-3-furan carboxamide | 2.1 g, yield was 85.8% | CC=1OC(=CC1C(=O)NC1=C2CCC(C2=CC=C1)(C)C)C | C18H21NO2
